datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C7=CC=CC=C7)C(C)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H] 21=20;20,10=10"
"[O-:21][C:20]2([NH+:10]([H])C(C=CC=C3)=C3C2C)OCC>>[NH:10]([H])C1=C(C(C)[C:20](OCC)=[O:21])C=CC=C1 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[Na][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)O[H])CC>>[Na][O:21]CC.[C:20](=[O:10])(OC1=CC=CC=C1)O[H] 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[O-:21][C:20]1([H])C([H])C(C)C([H])C(CCC)[O+:10]1([Na])>>[O:10]([Na])C(CCC)C([H])C(C)C([H])[C:20]([H])=[O:21] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CCCCCC)C>>CN([C:20]1(OC(C(C([O:21]1)[H])[H])CCCCCC)[O-:10])C 21=20;20,10=10"
"[H]N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)[H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21][H])[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[O][C:20]([NH]C)=[NH+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)[O+:10]([K])C(CC)C([H])=C1[H]>>[O:10]([K])C(CC)/C([H])=C([C:20](C)=[O:21])/[H] 21=20;20,10=10"
"CCN([C:20](=[O:10])O[H])C.[O-:21]CC>>CCN([C:20]([O-:10])(O[H])[O:21]CC)C 21=20;20,10=10"
"[NH:10](C)C(C)/C(C)=C([H])\C(C)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)C([H])=C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C)C>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C)[O-:10])C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])C)CC>>[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])C)[O-:10])CC 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(C)[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.[H][NH:10][H] 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C(CC)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C(CC)[O]1 10=20;20,21=21"
"[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C1=CC=CC=C1)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][S+:10](C([H])C(CC)[O]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][S:10]C([H])C(CC)[O][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C([H])C(C)C(CC)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(CC)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CCCCCC)CC>>CCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CC.[O-:21][H] 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH]CC)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]CC 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C)[S][C:20]([S]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[S]C 10=20;20,21=21"
